US07776897B2
To a THF (7 ml) solution of N-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}aniline (200 mg) were added 36% formaldehyde solution (0.14 ml) and 1.5M sulfuric acid (0.05 ml) and, after stirring at room temperature for 10 minutes, sodium borohydride (81 mg) was added thereto, followed by stirring at room temperature for 10 minutes. After a 1M aqueous sodium hydroxide solution was added to the reaction solution, the reaction solution and chloroform were added to a saturated aqueous sodium chloride solution and then the organic layer was separated. Furthermore, the organic layer was dried over anhydrous magnesium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=99:1) and the resulting solid washed with hexane to obtain 72 mg of N-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}-N-methylaniline (colorless solid).

reactant | N-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}aniline | 200 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C)(C)NC1=CC=CC=C1)C | C18H19ClN4
reactant | formaldehyde | 0.14 ml | C=O | CH2O
reactant | sulfuric acid | 1.5M, 0.05 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | 81 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | N-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}-N-methylaniline | 72 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C)(C)N(C1=CC=CC=C1)C)C | C19H21ClN4
